US03931199
2.5 g of thionyl chloride is added to a suspension of 4.5 g of sodium 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylate in 35 ml of carbon tetrachloride with stirring, and the mixture is stirred under reflux for 3 hours. After cooling, the crystals are filtered off, washed with cool water and then with acetone, and dried to give 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid chloride melting at 234°-235°C.

reactant | thionyl chloride | 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylate | 4.5 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)[O-].[Na+]
solvent | carbon tetrachloride | 35 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid chloride | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)Cl | C13H6ClNO3
